US05817833
2-Methylbiphenyl-4-carboxylic acid
The title compound was prepared from 4-bromo-3-methylbenzoic acid and benzeneboronic acid using a similar procedure to Description 15, as a pale yellow solid (89%).

reactant | 4-bromo-3-methylbenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | benzeneboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-Methylbiphenyl-4-carboxylic acid | CC1=C(C=CC(=C1)C(=O)O)C1=CC=CC=C1 | C14H12O2
